US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methoxypyridin-4-yl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (170 mg) and 4-amino-3-methoxypyridine (120 mg). Purification by column chromatography on silica eluting with ethyl acetate gave the title compound (0.14 g) as an off white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 170 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 4-amino-3-methoxypyridine | 120 mg | NC1=C(C=NC=C1)OC | C6H8N2O
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methoxypyridin-4-yl)amide | 0.14 g | COC=1C=NC=CC1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H17N3O4
